US04159984
To a solution of 5.00 g of methyl α-(3-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-6-yl)-α-isopropylideneacetate in 100 ml of tetrahydrofuran containing 5% water is added aluminium amalgam prepared from 4 g of aluminium and 0.5 g of mercuric chloride, and the mixture stirred at room temperature for 1.5 hours. The reaction mixture is dried on magnesium sulfate and concentrated under reduced pressure to yield 4.92 g of methyl α-(3ξ-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate as crude product in 98.4% yield.

reactant | methyl α-(3-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-6-yl)-α-isopropylideneacetate | 5.00 g | C(=O)(OCC1=CC=CC=C1)C1=NC2C(N(C2O1)C(C(=O)OC)=C(C)C)=O | C18H18N2O6
reactant | aluminium | 4 g | [Al] | Al
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl α-(3ξ-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 4.92 g, 98.4% yield | C(=O)(OCC1=CC=CC=C1)C1NC2C(N(C2O1)C(C(=O)OC)=C(C)C)=O | C18H20N2O6
